US05759211
Preparation of 1-amino-4-hydroxy-2-(4-fluorosulphonylphenoxy)anthraquinone
To a mixture of 1-amino-4-hydroxy-2-(4-chlorosulphonylphenoxy)anthraquinone (2 parts) and 1,4-dioxane (25 parts), stirring at ambient temperature, was added a solution of potassium fluoride (0.6 parts) in water (5 parts). The mixture was heated to 60° C. and stirred at this temperature for 20 minutes. After cooling to 0°-5° C., the product was isolated by filtration, washed with water and dried at 50° C. to yield: 1-amino-4-hydroxy-2-(4-fluorosulphonylphenoxy)anthraquinone (1.6 parts). λmax=515.0 nm (CH2Cl2).

reactant | 1-amino-4-hydroxy-2-(4-chlorosulphonylphenoxy)anthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OC1=CC=C(C=C1)S(=O)(=O)Cl | C20H12ClNO6S
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | potassium fluoride | [F-].[K+]
solvent | water | O | H2O
product | 1-amino-4-hydroxy-2-(4-fluorosulphonylphenoxy)anthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OC1=CC=C(C=C1)S(=O)(=O)F | C20H12FNO6S
